US04874773
Preparation of n-pentyl 2,6-dimethyl-3-isopropylaminocarbonyl-4-(o-nitrophenyl)-1,4-dihydropyridine-5-carboxylate:
o-Nitrobenzaldehyde (3.8 g, 0.025 mole), n-pentyl 3-aminocrotonate (4.3 g, 0.025 mole) and acetoacetic isopropylamide (3.6 g, 0.025 mole) are dissolved in ethanol (50 ml), and the mixture is refluxed for 8 hours. After the reaction, the solvent is distilled off under reduced pressure. The residue is dissolved in elution solvent [chloroform:carbon tetrachloride:ethyl formate:formic acid:ethanol (10:10:8:1:2)] (30 ml) and subjected to column chromatography [silica gel 60 Art. 9385 (Manufactured by Merck Co.), 300 g, φ40 mm×50 cm]. The fraction containing the desired compound is regulated to pH 10 with 28% aqueous ammonia, and the organic layer is separated, washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue is recrystallized from 80% ethanol to give the title compound (3.2 g, yield 30.0%) as yellow prisms, m.p. 186°-189° C.

reactant | o-Nitrobenzaldehyde | 0.025 mole, 3.8 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | n-pentyl 3-aminocrotonate | 0.025 mole, 4.3 g | N\C(=C/C(=O)OCCCCC)\C | C9H17NO2
reactant | acetoacetic isopropylamide | 0.025 mole, 3.6 g | C(C)(C)NC(CC(=O)C)=O | C7H13NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | n-pentyl 2,6-dimethyl-3-isopropylaminocarbonyl-4-(o-nitrophenyl)-1,4-dihydropyridine-5-carboxylate | 3.2 g, yield 30.0% | CC=1NC(=C(C(C1C(=O)NC(C)C)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCC)C | C23H31N3O5
